US08809376B2
{(S)-6-[(R)-4-benzyl-5-trifluoromethyl-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester
The title compound is prepared from {(S)-6-[(R)-4-bromo-5-trifluoromethyl-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester and benzylzinc bromide following a procedure analogous to that described in Step 6 of Intermediate 1. LC (method 3): tR=0.94 min; Mass spectrum (ESI+): m/z=505 [M+Na]+.

reactant | {(S)-6-[(R)-4-bromo-5-trifluoromethyl-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester | COC(C[C@@H]1COC2=C1C=CC(=C2)O[C@@H]2CCC1=C(C(=CC=C21)C(F)(F)F)Br)=O | C21H18BrF3O4
reactant | benzylzinc bromide | [Br-].C(C1=CC=CC=C1)[Zn+]
product | {(S)-6-[(R)-4-benzyl-5-trifluoromethyl-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester | COC(C[C@@H]1COC2=C1C=CC(=C2)O[C@@H]2CCC1=C(C(=CC=C21)C(F)(F)F)CC2=CC=CC=C2)=O | C28H25F3O4
